US07226728B2
287 g of distilled water, 7.73 g of a surfactant (PIONIN A-43-S produced by Takemoto Yushi Corporation and having a solid content of 48.5 mass %), 14.06 ml of 1 mol/liter NaOH, 0.15 g of tetrasodium ethylenedianinetetraacetate, 255 g of styrene, 11.25 g of acrylic acid, and 3.0 g of tert-dodecylmercaptan were put into the polymerization reactor of a gas monomer reaction apparatus (TAS-2J Model available from Taiatsu Techno Corporation). The reactor was sealed off, and the content therein was stirred at 200 rpm. The internal air was exhausted via a vacuum pump, and replaced a few times repeatedly with nitrogen. Then, 108.75 g of 1,3-butadiene was introduced into the reactor under pressure, and the internal temperature of the reactor was raised to 60° C. A solution in which 1.875 g of ammonium persulfate was dissolved in 50 ml of water was added to the system, and the system was stirred for 5 hour. It was heated to 90° C. and stirred for 3 hours at that temperature. After the reaction was completed, the internal temperature was lowered to room temperature. Then, NaOH and NH4OH (both 1 mol/liter) were added to the system at a molar ratio of Na+ to NH4+ of 1/5.3 so as to adjust the pH of the system at 8.4. Next, the system was filtered through a polypropylene filter having a pore size of 1.0 μm to remove foreign objects such as dirt from it, and then stored. 774.7 g of SBR latex TP-1 was thus obtained. Its halide ion content was measured through ion chromatography, and the chloride ion concentration of the latex was 3 ppm. The chelating agent concentration thereof was measured through high-performance liquid chromatography, and was 145 ppm.

reactant | NaOH | 1 mol/liter, 14.06 ml | [OH-].[Na+]
reactant | tetrasodium | 0.15 g | C1C=CN(C=C1C(=O)N)C2C(C(C(O2)COP(=O)([O-])OP(=O)([O-])OCC3C(C(C(O3)N4C=NC5=C4N=CN=C5N)OP(=O)([O-])[O-])O)O)O.[Na+].[Na+].[Na+].[Na+]
reactant | styrene | 255 g | C=CC1=CC=CC=C1 | C8H8
reactant | acrylic acid | 11.25 g | C(C=C)(=O)O | C3H4O2
reactant | tert-dodecylmercaptan | 3.0 g | CC(C)C(C)(C)C(C)(C)C(C)(C)S | C12H26S
reactant | 1,3-butadiene | 108.75 g | C=CC=C | C4H6
reactant | NH4OH | [NH4+].[OH-]
solvent | ammonium persulfate | 1.875 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 50 ml | O | H2O
product | TP-1 | C/C=C/C1C[C@H]([C@H](C1)O)O | C8H14O2
